US08168788B2
2-{3-[4-(4-Chloro-benzoyl)-piperazin-1-yl]-4-hydroxy-pyrrolidin-1-yl}-4-trifluoromethyl-pyrimidine-5-carboxylic acid amide
To a solution of 2-{3-[4-(4-Chloro-benzoyl)-piperazin-1-yl]-4-hydroxy-pyrrolidin-1-yl}-4-trifluoromethyl-pyrimidine-5-carboxylic acid (1 eq) in DMF (1 mL), was added HATU (1.5 eq), DIPEA (4 eq) and HOBt (1.5 eq). The mixture was stirred at RT for 5 min. Then NH4Cl (2 eq) was added. The final reaction mixture was stirred at RT for overnight. EtOAc (2 mL) was added. The organic layer was washed with H2O (2×1 mL), dried over Na2SO4, and concentrated. The residue was purified by column chromatography (Ethyl acetate) to give the desired product as a white solid (35% yield). MS: (ESI), M/Z, 499 (M+1). Retention time: 1.56 min (FA-polar).

reactant | 2-{3-[4-(4-Chloro-benzoyl)-piperazin-1-yl]-4-hydroxy-pyrrolidin-1-yl}-4-trifluoromethyl-pyrimidine-5-carboxylic acid | 1 eq | ClC1=CC=C(C(=O)N2CCN(CC2)C2CN(CC2O)C2=NC=C(C(=N2)C(F)(F)F)C(=O)O)C=C1 | C21H21ClF3N5O4
reactant | HATU | 1.5 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 4 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 1.5 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH4Cl | 2 eq | [NH4+].[Cl-]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
product | 2-{3-[4-(4-Chloro-benzoyl)-piperazin-1-yl]-4-hydroxy-pyrrolidin-1-yl}-4-trifluoromethyl-pyrimidine-5-carboxylic acid amide | 35% yield | ClC1=CC=C(C(=O)N2CCN(CC2)C2CN(CC2O)C2=NC=C(C(=N2)C(F)(F)F)C(=O)N)C=C1 | C21H22ClF3N6O3
